US06303593B1
4-Hydroxy-4-(3-(4-fluorophenyl)propyl)piperidine
The title compound was prepared from 3-(4-fluorophenyl propyliodide and 1-benzyl-4-piperidone as described in Example 122.

reactant | 4-fluorophenyl propyliodide | FC1=CC=C(C=C1)CCCI | C9H10FI
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 4-Hydroxy-4-(3-(4-fluorophenyl)propyl)piperidine | OC1(CCNCC1)CCCC1=CC=C(C=C1)F | C14H20FNO
